US08871753B2
Step B: tert-Butyl {3-[({3-[(2,5-dichloropyrimidin-4-yl)amino]phenyl}acetyl)amino]phenyl}carbamate
To a solution of tert-butyl (3-{[(3-aminophenyl)acetyl]amino}phenyl)carbamate (0.31 g, 0.91 mmol) and 2,4,5-trichloropyrimidine (0.15 g, 0.82 mmol) in DMF (3 mL) was added potassium carbonate (0.14 g, 0.99 mmol). The resulting mixture was stirred overnight at rt. The reaction was quenched with sat'd NH4Cl and water. EtOAc was added and the layers separated. The aqueous was extracted with EtOAc and the combined organics were washed with water and brine then dried (MgSO4), filtered, and concentrated. The crude mixture was purified by column chromatography to give the desired product (0.25 g, 62%). LCMS for C23H23Cl2N5O3 (M-tBu+H)+: m/z=432.0, 434.0. 1H NMR (400 MHz, DMSO-d6): δ 10.12 (s, 1H), 9.54 (s, 1H), 9.32 (s, 1H), 8.35 (s, 1H), 7.93 (s, 1H), 7.78 (t, J=2.1 Hz, 1H), 7.47 (s, 1H), 7.46 (m, 1H), 7.33 (dd, J=8.7, 7.5 Hz, 1H), 7.31 (m, 1H), 7.15 (m, 1H), 7.11 (t, J=8.0 Hz, 1H), 6.98 (m, 1H).

reactant | tert-butyl (3-{[(3-aminophenyl)acetyl]amino}phenyl)carbamate | 0.91 mmol, 0.31 g | NC=1C=C(C=CC1)CC(=O)NC=1C=C(C=CC1)NC(OC(C)(C)C)=O | C19H23N3O3
reactant | 2,4,5-trichloropyrimidine | 0.82 mmol, 0.15 g | ClC1=NC=C(C(=N1)Cl)Cl | C4HCl3N2
reactant | potassium carbonate | 0.99 mmol, 0.14 g | C([O-])([O-])=O.[K+].[K+]
solvent | DMF | 3 mL | CN(C)C=O | C3H7NO
product | tert-Butyl {3-[({3-[(2,5-dichloropyrimidin-4-yl)amino]phenyl}acetyl)amino]phenyl}carbamate | 0.25 g, 62% | ClC1=NC=C(C(=N1)NC=1C=C(C=CC1)CC(=O)NC=1C=C(C=CC1)NC(OC(C)(C)C)=O)Cl | C23H23Cl2N5O3
